US09126972B2
7.6: 2-Amino-1-ethyl-3-(1H-imidazol-2-yl)-7-iodo-1H-quinolin-4-one
0.37 ml of a 12N HCl solution were added at 0° C. to a suspension of 0.13 .g (0.28 mmol) of 2-amino-N-(2,2-diethoxy-ethyl)-1-ethyl-7-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxamidine. The reaction mixture was stirred at room temperature during 16 hours. The reaction mixture was than diluted with 0.55 ml of water, basified with 0.32 ml of 1N NaOH solution, and 0.134 ml of an NH4OH solution. The mixture was then filtered and the resulting solid was washed with water, acetonitrile and pentane to give 0.08 g (0.21 mmol) of a brown solid.

reactant | HCl | 12N | Cl | ClH
reactant | 2-amino-N-(2,2-diethoxy-ethyl)-1-ethyl-7-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxamidine | 0.28 mmol | NC=1N(C2=CC(=CC=C2C(C1C(=N)NCC(OCC)OCC)=O)I)CC | C18H25IN4O3
reactant | NaOH | 1N, 0.32 ml | [OH-].[Na+]
reactant | NH4OH | 0.134 ml | [NH4+].[OH-]
solvent | water | 0.55 ml | O | H2O
product | 2-Amino-1-ethyl-3-(1H-imidazol-2-yl)-7-iodo-1H-quinolin-4-one | 0.21 mmol, 0.08 g, Yield=76% | NC=1N(C2=CC(=CC=C2C(C1C=1NC=CN1)=O)I)CC | C14H13IN4O
